US06239142B1
N-(4-Chlorobenzyl)-2-(4-morpholinylmethyl)-4-oxo-7-(tetrahydro-2-furanylmethyl)-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide.
N-(4-Chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)thieno[2,3-b]pyridine-5-carboxamide (418 mg) from Example No. 41 and potassium carbonate (152 mg) are suspended in DMF (10 mL) and to the mixture is added tetrahydrofurfurylbromide (125 μL). The reaction mixture is heated to 60° C. for 4 h and then allowed to stand at room temperature for 18 h. The reaction mixture is poured into water (25 mL) and extracted with EtOAc (3×25 mL). The organic layer is dried (Na2SO4) and concentrated. The resulting crude solid is purified by recrystallization from ethanol to afford 15 mg (3%) of the title compound as a white solid.

reactant | N-(4-Chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)thieno[2,3-b]pyridine-5-carboxamide | 418 mg | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CN3CCOCC3)O)C=C1 | C20H20ClN3O3S
reactant | potassium carbonate | 152 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofurfurylbromide | 125 μL | C(C1CCCO1)Br | C5H9BrO
reactant | water | 25 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-2-(4-morpholinylmethyl)-4-oxo-7-(tetrahydro-2-furanylmethyl)-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 15 mg, 3% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CC2OCCC2)SC(=C3)CN3CCOCC3)=O)C=C1 | C25H28ClN3O4S
